US03933859
77 g of 3-(3,4-dihydroxyphenyl)-L-alanine is added with stirring in an argon atmosphere to a suspension of 140 g of borax in 700 ml of water. The mixture is stirred for 15 minutes and then brought to pH 9 (pH meter) with 2-N aqueous sodium hydroxide. A boric acid complex forms in which the hydroxyl groups on the phenyl ring of the alanine derivative are esterified with boric acid. 77 g of chloroformic acid benzyl ester is subsequently added in portions of about 4 ml in the course of three hours at a temperature between 0°C. and 10°C., the pH of the mixture being held between 9 and 9.5 by the addition of 2-N sodium hydroxide. After the addition, the mixture is cooled to 0°C. and filtered off from a small amount of undissolved material, and the filtrate is extracted twice with 500 ml of diethyl ether each time. The ether extracts are washed once with 100 ml of water and then discarded. The aqueous alkaline extracts are brought to pH 1 with 6-N aqueous sulphuric acid with ice-cooling and then extracted twice with 1,000 ml of diethyl ether each time. The organic extracts are washed four times with 500 ml of water each time, then combined and, after drying over sodium sulphate and animal charcoal, evaporated under vacuum with the addition of toluene. 125.7 g of crude N-benzyloxycarbonyl-3-(3,4-dihydroxyphenyl)-L-alanine is thus obtained as a weakly violet-colored glass; [α]D25 = +1.5°(c = 1.935%, methanol).

reactant | 3-(3,4-dihydroxyphenyl)-L-alanine | 77 g | OC=1C=C(C=CC1O)C[C@H](N)C(=O)O | C9H11NO4
reactant | sodium hydroxide | [OH-].[Na+]
reactant | alanine | N[C@@H](C)C(=O)O | C3H7NO2
reactant | boric acid | B(O)(O)O | BH3O3
reactant | chloroformic acid benzyl ester | 77 g | C(C1=CC=CC=C1)OC(=O)Cl | C8H7ClO2
solvent | water | 700 ml | O | H2O
product | N-benzyloxycarbonyl-3-(3,4-dihydroxyphenyl)-L-alanine | 125.7 g | C(C1=CC=CC=C1)OC(=O)N[C@@H](CC1=CC(=C(C=C1)O)O)C(=O)O | C17H17NO6
